US07795283B2
i) Methyl [4-methyl-1-(5-nitropyridin-2-yl)piperidin-4-yl]acetate
To a solution of 2-chloro-5-nitropyridine (2.97 g, 18.77 mmol) in DMSO (30 mL) was added sodium carbonate (6.4 g, 60.38 mmol) followed by methyl (4-methylpiperidin-4-yl)acetate (3.21 g, 18.77 mmol) (prepared according to the procedures described by Janet Ralbovsky, Joseph Lisko and Wei He, Synthetic Communications, 2005, 35 (12), 1613-1625 and Gerhard Hund, and Woldemar Schneider, Chem Ber 1980,113 (2), 401-7). The reaction mixture was heated to 60° C. for 1.5 hours, then allowed to cool and water (100 mL) was added. The suspension filtered, and dried to leave a yellow solid (3.70 g, 12.62 mmol, 67%). 1H NMR δ 1.08 (s, 3H), 1.45-1.48 (m, 2H), 1.55-1.61 (m, 2H), 2.38 (s, 2H), 3.59 (s, 3H), 3.64-3.70 (m, 2H), 3.85-3.91 (m, 2H), 6.95 (d, 1H), 8.19 (d, 1H), 8.95 (s, 1H); MS m/e MH+ 294.

reactant | 2-chloro-5-nitropyridine | 18.77 mmol, 2.97 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | sodium carbonate | 60.38 mmol, 6.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl (4-methylpiperidin-4-yl)acetate | 18.77 mmol, 3.21 g | CC1(CCNCC1)CC(=O)OC | C9H17NO2
reactant | water | 100 mL | O | H2O
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | Methyl [4-methyl-1-(5-nitropyridin-2-yl)piperidin-4-yl]acetate | 12.62 mmol, 3.70 g, 67% | CC1(CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-])CC(=O)OC | C14H19N3O4
